US07423181B2
N-(3-Acetyl-phenyl)-2-dimethylamino-acetamide
A solution of 3′-amino-acetophenone (25 mmol) in THF (100 mL) was added chloroacyl chloride (30 mmol). The mixture was stirred for 30 min, poured into ice cold 2M NaOH (aq) and extracted with Et2O. The organic phase was dried and the solvent was removed under reduced pressure giving the pure product. A solution of the product (10 mmol) and triethyl amine (30 mmol) in ethanol was added amine (20 mmol) and the mixture was refluxed for 4 hours. Ethanol was removed under reduced pressure and the product was dissolved in EtOAc and washed with 2M NaOH (aq). EtOAc was removed under reduced pressure giving the product as pure brown oil in 85% yield. 1H-NMR (CDCl3) 5 9.31 (s, 1H), 8.05 (m, 2H), 7.72 (dt,1H), 7.46 (t, 1H), 3.11 (s, 2H), 2.62 (s, 3H), 2.41 (s,.6H).

reactant | 3′-amino-acetophenone | 25 mmol | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | triethyl amine | 30 mmol | C(C)N(CC)CC | C6H15N
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | N-(3-Acetyl-phenyl)-2-dimethylamino-acetamide | 85% yield | C(C)(=O)C=1C=C(C=CC1)NC(CN(C)C)=O | C12H16N2O2
